US06921821B2
4-(1-Benzo[1,3]dioxol-5ylmethyl-piperidin-4-ylamino)-6-trifluoromethoxy-chromen-2-one (II-96)
To a suspension of 4-chloro-6-trifluoromethoxycoumarin (0.04 g, 0.15 mmol) in 1 ml N-methylpyrrolidone in a Smith reaction vial was added 1-benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamine (0.039 g, 0.16 mmol) followed by 0.042 ml of triethylamine. The reaction vessel was sealed with a crimper and the reaction heated at 220° C. for 20 minutes in a Smith Synthesizer. The reaction was diluted with 20 ml water and extracted with 3×10 ml ethyl acetate. The combined organic layers were dried over MgSO4, filtered, evaporated and chromatographed using 2% CH3OH:DCM to afford 36.4 mg (52%) of a white solid. MS (ESI (+)) m/e 463 (M+H)+; 1H NMR (300 MHz, MeOD4) δ ppm 1.65-1.75 (m, 2H), 2.0-2.1 (m, 2H), 2.25 (m, 2H), 3.0 (m, 2H), 3.5 (s, 2H), 3.6 (m, 1H), 5.37 (s, 1H), 5.9 (s, 2H), 6.75 (m, 2H), 6.9 (m, 1H), 7.45 (m, 1H), 7.55 (m, 1H), 8.10 (br s, 1H).

reactant | 4-chloro-6-trifluoromethoxycoumarin | 0.15 mmol, 0.04 g | ClC1=CC(OC2=CC=C(C=C12)OC(F)(F)F)=O | C10H4ClF3O3
reactant | 1-benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamine | 0.16 mmol, 0.039 g | O1COC2=C1C=CC(=C2)CN2CCC(CC2)N | C13H18N2O2
reactant | triethylamine | 0.042 ml | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 20 ml | O | H2O
product | 4-(1-Benzo[1,3]dioxol-5ylmethyl-piperidin-4-ylamino)-6-trifluoromethoxy-chromen-2-one | 36.4 mg, 52% | O1COC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(OC1=CC=C(C=C21)OC(F)(F)F)=O | C23H21F3N2O5
